US06326386B1
[2-(3-{[2-(3-Amino-[1,2,4]oxadiazol-5-yl)-ethyl]-isopropyl-carbamoyl}-5-chloro-phenoxy)-ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.104 g), TBTU (0.128 g), and HOBt (0.061 g) in DMF (1 ml) was added DIPEA (0.139 ml) and 5-(2-isopropylamino-ethyl)-[1,2,4]oxadiazol-3-ylamine (0.05 g). The reaction mixture was stirred at room temperature for 10 days, then silica was added and the solvent removed by evaporation at reduced pressure. The resulting silica was loaded onto the top of a column of silica which was then eluted with a gradient [cyclohexane:ethyl acetate (1:1 v/v) to neat ethyl acetate to ethyl acetate:methanol (9:1 v/v)]. Concentration of the required fraction at reduced pressure furnished the title compound as a yellow glass (0.069 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.104 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | TBTU | 0.128 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.061 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.139 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(2-isopropylamino-ethyl)-[1,2,4]oxadiazol-3-ylamine | 0.05 g | C(C)(C)NCCC1=NC(=NO1)N | C7H14N4O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [2-(3-{[2-(3-Amino-[1,2,4]oxadiazol-5-yl)-ethyl]-isopropyl-carbamoyl}-5-chloro-phenoxy)-ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester | 0.069 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)Cl)C(N(C(C)C)CCC1=NC(=NO1)N)=O)=O | C26H33ClN6O5
